US07595327B2
cis-N-Hydroxy4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxamide
To the stirred solution of 74 mg of tert-butyl cis-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-1-carboxylate in 4 mL of dichloromethane was slowly added 2 mL of trifluoroacetic acid. The solution was stirred at room temperature for 3 hr. After removal of the volatile material in vacuo cis-N-hydroxy-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxamide was obtained in quantitative yield. MS: 457.0 (M+H)+

reactant | tert-butyl cis-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-1-carboxylate | 74 mg | ONC(=O)[C@@H]1CN(C[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C27H32N4O7S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | cis-N-Hydroxy4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxamide | quantitative yield | ONC(=O)[C@@H]1CNC[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C22H24N4O5S
